US04239901
20.2 g (100 mmoles) of 4-(pyrazol-1-yl)phenylacetic acid are dissolved in 400 ml of carbon tetrachloride. 16 g of bromine (200 mmoles) in 400 ml of carbon tetrachloride are added dropwise, with ice cooling, to the resulting solution. After subsequent stirring for half an hour at room temperature, washing with sodium dithionite solution is effected; this is followed by drying with sodium sulfate and, finally, by evaporation to dryness to obtain 27.5 g (98% of theory) of 4-(4-bromo-pyrazol-1-yl)phenylacetic acid, m.p. 187° C. (from acetonitrile).

reactant | 4-(pyrazol-1-yl)phenylacetic acid | 100 mmoles, 20.2 g | N1(N=CC=C1)C1=CC=C(C=C1)CC(=O)O | C11H10N2O2
reactant | bromine | 200 mmoles, 16 g | BrBr | Br2
solvent | carbon tetrachloride | 400 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 400 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(4-bromo-pyrazol-1-yl)phenylacetic acid | 27.5 g, 98% | BrC=1C=NN(C1)C1=CC=C(C=C1)CC(=O)O | C11H9BrN2O2
